Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Percocet / shellfish derived / Iodinated Contrast- 
Oral and IV Dye
 
Attending: ___.
 
Chief Complaint:
mechanical fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is an ___ old woman with history of
scoliosis since birth, possible polio as a child, and an
unspecified tremor disorder for which she takes
carbidopa-levodopa, who sustained an unwitnessed mechanical fall
on the evening of ___. She reports headstrike but no LOC. 
She
states that she has a habit of moving too quickly and has had a
series of prior slips and falls, but nothing as dramatic. She 
did
get herself off the floor, went to the bathroom and cleaned
herself up, and then went to bed and slept overnight. This
morning, her grandson was picking her up for a hair appointment,
but found her sitting in her chair with periorbital ecchymosis,
and so brought her to an OSH. 
She underwent some basic lab work and pan-CT scan, which 
revealed
the following per report: leukocytosis to 19.5 & H/H at 
8.7/26.5.
CXR was negative for acute process. CT head showed extra-axial
air noted over the frontal lobes as well as punctate air along
the floor of the anterior left cranial fossa and small amount of
air just above the sella turcica likely subarachnoid in origin.
CT facial bones revealed comminuted fractures of left maxillary
sinus anterior and medial walls, nondisplaced left orbital floor
fracture, nondisplaced fracture of superior wall of right bony
orbit, small fracture of right ethmoid sinus roof, fracture of
nasal bone, right and left mandibular central incisors fracture.
CT neck showed baseline severe kyphoscoliotic deformity without
acute fracture or prevertebral soft tissue swelling. Finally, CT
abd/pelvis notable for colitis in the sigmoid colon. She was
given unasyn and transferred here for further management. 
Plastic surgery evaluated her for her facial fractures, and
recommended non-operative management with sinus precautions, to
follow-up in plastic surgery clinic for discussion of elective
nasal bone repair. ___ has been consulted. Trauma surgery is
consulted for tertiary trauma survey.
Upon our evaluation in the ED, Ms. ___ is in no acute
distress but does report a headache. She reports eating and
urinating normally prior to the fall. In addition, she has been
having normal bowel movements, last yesterday. No dizziness. She
does remember the fall.

 
Past Medical History:
Past Medical History: hypothyroidism, HLD, HTN, depression,
scoliosis, unspecified tremors, possible polio as child

Past Surgical History: hysterectomy (many years ago, not for
cancer)

 
Social History:
___
Family History:
Mother with early CAD and MI in ___
 
Physical Exam:
V/S: T:98.6  BP:98/61 Hr:87 RR:18   O2:98 Ra 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist, b/l 
periorbital
ecchymosis, abrasion to R forehead, ecchymosis and edema of
central mandible with loosened bottom teeth, nontender
CV: sinus tachycardia, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
well-healed lower midline incision
Back: C and L spine tenderness, which pt and family report are
baseline sources of pain for her; no CVA tenderness
Ext: No ___ edema, ___ warm and well perfused, intact palpable
pedal pulses b/l; small L knee abrasion
Neuro: motor/sensory grossly intact and symmetric bilaterally,
CNII-XII grossly intact, hard of hearing

 
Pertinent Results:
___ 02:20AM URINE  HOURS-RANDOM
___ 02:20AM URINE  UHOLD-HOLD
___ 02:20AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 02:20AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 10:03PM   ___ PTT-24.5* ___
___ 09:10PM   GLUCOSE-125* UREA N-45* CREAT-0.7 SODIUM-145 
POTASSIUM-4.3 CHLORIDE-105 TOTAL CO2-24 ANION GAP-16
___ 09:10PM   estGFR-Using this
___ 09:10PM   WBC-17.4* RBC-2.72* HGB-8.6* HCT-26.7* MCV-98 
MCH-31.6 MCHC-32.2 RDW-14.1 RDWSD-50.4*
___ 09:10PM   NEUTS-77.8* LYMPHS-14.0* MONOS-7.4 EOS-0.0* 
BASOS-0.1 IM ___ AbsNeut-13.50* AbsLymp-2.43 AbsMono-1.28* 
AbsEos-0.00* AbsBaso-0.02
___ 09:10PM   PLT COUNT-___ with mechanical fall was transferred from OSH with facial 
fractures. Patient was admitted to ___ service at ___ on 
___ for further evaluation and treatment. Evaluated by 
plastic surgery with decision for nnon-op management and outpt 
follow-up for discussion of elective nasal repair; they did also 
recommend sinus precautions. OMFS evaluated for loose 
teeth/fractures. No other injuries were observed on tertiary 
exam except for a small L knee abrasion; she
had pain/tenderness of her spine due to severe scoliosis at 
baseline. The colitis seen on CT scan is unlikely to be of 
clinical significance since she is asymptomatic from that 
standpoint. However, she does have leukocytosis which could be
from her injury vs other source, and warrants observation. she 
was Admitted  to ___ for observation and review OSH imaging 
again. Her diet was advanced as tolerated, she was put on sinus 
precautions.

When tolerating a diet, the patient was converted to oral pain 
medication with continued good effect. Diet was progressively 
advanced as tolerated to a regular diet with good tolerability. 
The patient voided without problem. During this hospitalization, 
the patient ambulated early and frequently, was adherent with 
respiratory toilet and incentive spirrometry, and actively 
participated in the plan of care. The patient received 
subcutaneous heparin and venodyne boots were used during this 
stay.

 At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient was discharged home without services. 
The patient received discharge teaching and follow-up 
instructions with understanding verbalized and agreement with 
the discharge plan.
 
Medications on Admission:
Lasix 20', diltiazem CD 360', venlafaxine 75',
carbidopa-levodopa"', synthroid 75', spironolactone 25',
pravastatin 20', ASA81', MVI

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
2.  Aspirin 81 mg PO DAILY  
3.  Carbidopa-Levodopa (___) 1 TAB PO TID  
4.  Diltiazem Extended-Release 360 mg PO DAILY  
5.  Levothyroxine Sodium 75 mcg PO DAILY  
6.  Pravastatin 20 mg PO QPM  
7.  Spironolactone 25 mg PO DAILY  
8.  Venlafaxine 75 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
orbital floor fractures 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid driving or 
operating heavy machinery while taking pain medications

 
 
Followup Instructions:
___